US07414045B2
A mixture of methyl 3-(benzoyloxy)-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate, N-bromo-succinimide (2 eq.) and α,α′-azoisobutyronitrile (0.45 eq.) in carbon tetrachloride was stirred under reflux for 14 hour. The mixture was cooled to room temperature, the succinimide was filtered off and the solvent was removed under reduced pressure. Methyl 3-(benzoyloxy)-10-bromo-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate was obtained after flash chromatography (eluents petroleum ether/ethyl acetate, 8:2) as a pale yellow solid.

reactant | methyl 3-(benzoyloxy)-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C2N(CCCCC2)C1=O)C(=O)OC | C18H18N2O5
reactant | N-bromo-succinimide | 2 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 3-(benzoyloxy)-10-bromo-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C2N(CCCCC2Br)C1=O)C(=O)OC | C18H17BrN2O5
